US07943768B2
1-[(1-Ethylpiperidin-3-yl)carbonyl]-4-[3-(trifluoromethyl)phenyl]piperazine
A mixture of 1-(piperidin-3-ylcarbonyl)-4-[3-(trifluoromethyl)phenyl]piperazine hydrochloride (600 mg) in N,N-dimethylformamide (10 ml) was stirred at room temperature. Potassium carbonate (800 mg) was added followed by ethyl bromide (158 mg) and the mixture was stirred overnight. The mixture was filtered through a sinter and then through a SCX-2 column eluting with methanol and then a 7M solution NH3 in methanol. The basic fraction was concentrated at reduced pressure. This gave 1-[(1-ethylpiperidin-3-yl)carbonyl]-4-[3-(trifluoromethyl)phenyl]piperazine as a colourless oil (420 mg)

reactant | 1-(piperidin-3-ylcarbonyl)-4-[3-(trifluoromethyl)phenyl]piperazine hydrochloride | 600 mg | Cl.N1CC(CCC1)C(=O)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F
reactant | Potassium carbonate | 800 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromide | 158 mg | C(C)Br | C2H5Br
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[(1-Ethylpiperidin-3-yl)carbonyl]-4-[3-(trifluoromethyl)phenyl]piperazine | C(C)N1CC(CCC1)C(=O)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C19H26F3N3O
